US07030141B2
Step 2: 2-(4-Cyano-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester
Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester (2.1 g, 9.8 mmol) was dissolved in 100 mL dry diethyl ether under an argon atmosphere, added dry pyridine (3.3 mL, 32.5 mmol), cooled to 0° C. then added oxalyl chloride (1.4 mL, 16.3 mmol) dropwise. A precipitate forms immediately upon addition of oxalyl chloride and therefore reaction requires vigorous stirring. Stirred at 0° C. for one hour than at ambient temperature for 2 hours. Dry diethyl ether (100 mL) was added and the solids were filtered off, washing with more diethyl ether. The filtrates were concentrated, then redissolved in dry DCM under argon, cooled to 0° C., added 1 mL dry pyridine then added 4-amino-benzonitrile (0.96 g, 8.1 mmol) in one portion. Stirred at ambient temperature for 2 hours, concentrated, redissolved in ethyl acetate (250 mL), washed with 10% citric acid (3×100 mL), water, brine, dried with MgSO4, filtered and concentrated to yield title compound as a white foam. (2.4 g, 93%) APCI (AP−): 314.1 (M−H)−.

reactant | Pyrrolidine-1,2-dicarboxylic acid 1-tert-butyl ester | 9.8 mmol, 2.1 g | C(C)(C)(C)OC(=O)N1C(CCC1)C(=O)O | C10H17NO4
reactant | pyridine | 32.5 mmol, 3.3 mL | N1=CC=CC=C1 | C5H5N
reactant | oxalyl chloride | 16.3 mmol, 1.4 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 4-amino-benzonitrile | 8.1 mmol, 0.96 g | NC1=CC=C(C#N)C=C1 | C7H6N2
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 100 mL | C(C)OCC | C4H10O
product | 2-(4-Cyano-phenylcarbamoyl)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(CCC1)C(NC1=CC=C(C=C1)C#N)=O | C17H21N3O3
